US06090817
A solution of bromine (14.6 g, 91.3 mmol) in carbon tetrachloride (100 mL) is added to a stirred mixture of 4'-Methoxy-[1,1'-biphenyl]-4-carboxylic acid, ethyl ester (23.4 g, 91.3 mmol) and silica gal (100 g of particle size 0.040-0.063 mm; Merck 1.09385) in carbon tetrachloride (350 mL). The mixture is stirred at 20° C. for 4 h after which the silica gel is removed by filtration. The filtrate is washed with aqueous sodium hydrogen carbonate (200 mL of 1 M) followed by aqueous sodium thiosulphate (50 mL of 2 M), dried (Na2SO4), filtered and evaporated to dryness under reduced pressure to give the crude product which is recrystallised from ether-cyclohexane to give 3'-bromo-4'-methoxy-[1,1'-biphenyl]-4-carboxylic acid, ethyl ester as a colourless crystalline solid, m.p. 114-115° C.

reactant | bromine | 91.3 mmol, 14.6 g | BrBr | Br2
reactant | 4'-Methoxy-[1,1'-biphenyl]-4-carboxylic acid, ethyl ester | 91.3 mmol, 23.4 g | COC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC | C16H16O3
solvent | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 350 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3'-bromo-4'-methoxy-[1,1'-biphenyl]-4-carboxylic acid, ethyl ester | BrC=1C=C(C=CC1OC)C1=CC=C(C=C1)C(=O)OCC | C16H15BrO3
